### PR TITLE
feat: add case insensitive comparison for strings (ASCII only)

### PR DESCRIPTION
**Pull request by ammkrn**
Adds ASCII-only case insensitive comparison to `Char` and `String`.

### CODE REVIEW

**Comment by fgdorais** [comment]
I will review this in a couple of days. Regarding names, I think the core style would prefer `ASCII` over `Ascii` (though counterexamples exist, e.g `Json` vs `JSON`). 

PS: If you need Unicode locale-independent case folding then please add a feature request to [UnicodeBasic](https://github.com/fgdorais/lean4-unicode-basic). I'm planning to add a few more normalization features this summer and this is an easy addition to the pile.

File: Batteries/Data/String/AsciiCasing.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+#eval "1$#!".caseFoldAsciiOnly == "1$#!" -- true
+```
+-/
+abbrev caseFoldAsciiOnly (s : String) := s.map Char.caseFoldAsciiOnly
+
+/--
+Bool-valued comparison of two `String`s for *ASCII*-case insensitive equality.
+-/
+def beqCaseInsensitiveAsciiOnly (s₁ s₂ : String) : Bool :=
+  s₁.caseFoldAsciiOnly == s₂.caseFoldAsciiOnly
```
Comment (fgdorais) [inline Batteries/Data/String/AsciiCasing.lean]:
```suggestion
-- TODO: Reimplement with finite iterators/streams when available for `String`.
private partial def beqCaseInsensitiveAsciiOnlyImpl (s₁ s₂ : String) : Bool :=
  s₁.length == s₂.length && loop s₁.iter s₂.iter
where
  loop i₁ i₂ := match Stream.next? i₁, Stream.next? i₂ with
    | some (c₁, i₁), some (c₂, i₂) => Char.beqCaseInsensitiveAsciiOnly c₁ c₂ && loop i₁ i₂
    | none, none => true
    | _, _ => false

/--
Bool-valued comparison of two `String`s for *ASCII*-case insensitive equality.
-/
@[implemented_by beqCaseInsensitiveAsciiOnlyImpl]
def beqCaseInsensitiveAsciiOnly (s₁ s₂ : String) : Bool :=
  s₁.caseFoldAsciiOnly == s₂.caseFoldAsciiOnly
```

File: Batteries/Data/String/AsciiCasing.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+#eval cmpCaseInsensitiveAsciiOnly "a" "A" -- eq
+#eval cmpCaseInsensitiveAsciiOnly "a" "a" -- eq
+#eval cmpCaseInsensitiveAsciiOnly "$" "$" -- eq
+#eval cmpCaseInsensitiveAsciiOnly "a" "b" -- lt
+#eval cmpCaseInsensitiveAsciiOnly "γ" "Γ" -- gt
+#eval cmpCaseInsensitiveAsciiOnly "ä" "Ä" -- gt
+```
+-/
+def cmpCaseInsensitiveAsciiOnly (s₁ s₂ : String) : Ordering :=
+  compare s₁.caseFoldAsciiOnly s₂.caseFoldAsciiOnly
```
Comment (fgdorais) [inline Batteries/Data/String/AsciiCasing.lean]:
````suggestion
-- TODO: Reimplement with finite iterators/streams when available for `String`.
private partial def cmpCaseInsensitiveAsciiOnlyImpl (s₁ s₂ : String) : Ordering :=
  loop s₁.iter s₂.iter
where
  loop i₁ i₂ := match Stream.next? i₁, Stream.next? i₂ with
    | some (c₁, i₁), some (c₂, i₂) => Char.cmpCaseInsensitiveAsciiOnly c₁ c₂ |>.then loop i₁ i₂
    | some _, none => .gt
    | none, some _ => .lt
    | none, none => .eq

/--
ASCII-case insensitive implementation comparison returning an `Ordering`. Useful for sorting.

```
#eval cmpCaseInsensitiveAsciiOnly "a" "A" -- eq
#eval cmpCaseInsensitiveAsciiOnly "a" "a" -- eq
#eval cmpCaseInsensitiveAsciiOnly "$" "$" -- eq
#eval cmpCaseInsensitiveAsciiOnly "a" "b" -- lt
#eval cmpCaseInsensitiveAsciiOnly "γ" "Γ" -- gt
#eval cmpCaseInsensitiveAsciiOnly "ä" "Ä" -- gt
```
-/
@[implemented_by cmpCaseInsensitiveAsciiOnlyImpl]
def cmpCaseInsensitiveAsciiOnly (s₁ s₂ : String) : Ordering :=
  compare s₁.caseFoldAsciiOnly s₂.caseFoldAsciiOnly
````

File: Batteries/Data/String/AsciiCasing.lean [hunk 3]
```diff
@@ -0,0 +1,51 @@
+import Batteries.Data.Char
```
Comment (fgdorais) [inline Batteries/Data/String/AsciiCasing.lean:6]: Add copyright header.

File: Batteries/Data/String/AsciiCasing.lean [hunk 4]
```diff
@@ -0,0 +1,51 @@
...
+#eval "ABC".caseFoldAsciiOnly == "abc" -- true
+#eval "x".caseFoldAsciiOnly == "y" -- false
+#eval "Àà".caseFoldAsciiOnly == "Àà" -- true
+#eval "1$#!".caseFoldAsciiOnly == "1$#!" -- true
+```
+-/
+abbrev caseFoldAsciiOnly (s : String) := s.map Char.caseFoldAsciiOnly
+
+/--
+Bool-valued comparison of two `String`s for *ASCII*-case insensitive equality.
```
Comment (fgdorais) [inline Batteries/Data/String/AsciiCasing.lean:35]: Add examples.

File: Batteries/Data/String/AsciiCasing.lean [hunk 5]
```diff
@@ -0,0 +1,51 @@
...
+-/
+def beqCaseInsensitiveAsciiOnly (s₁ s₂ : String) : Bool :=
+  s₁.caseFoldAsciiOnly == s₂.caseFoldAsciiOnly
+
+theorem beqCaseInsensitiveAsciiOnly.eqv : Equivalence (beqCaseInsensitiveAsciiOnly · ·) := {
+  refl _ := BEq.rfl
+  trans := fun h1 h2 => by simp_all [beqCaseInsensitiveAsciiOnly]
```
Comment (fgdorais) [inline Batteries/Data/String/AsciiCasing.lean]:
```suggestion
  trans _ _ := by simp_all [beqCaseInsensitiveAsciiOnly]
```

**Comment by ammkrn** [comment]
I implemented the requested changes with one modification: the `String.Iterator` does not seem to have an instance of `Stream` (I was getting a 'failed to synthesize...' error). There's one for `Substring` which is accessible via `ToStream.toStream`, so I used that.

**Comment by fgdorais** [comment]
Looks good!

After much consideration, the quotient type `CaseInsensitiveAsciiOnly` is not a good fit for Batteries. There are two primary reasons:

1. It has very limited functionality and adding more functions is tricky since it requires lifting.
2. It is not very efficient since most functions end up applying `caseFoldAsciiOnly` and then another string function.

In fact, I would recommend using the subtype `{ s : String // s = s.caseFoldAsciiOnly }` instead of the quotient type.

Please delete the `CaseInsensitiveAsciiOnly` file and we will be ready to merge.

**Comment by fgdorais** [comment]
@ammkrn  Have you tried the subtype approach I suggested? I'm curious to hear whether that works for your project.

**Comment by ammkrn** [comment]
> @ammkrn Have you tried the subtype approach I suggested? I'm curious to hear whether that works for your project.

I have not, but I have removed the requested files and squashed the commits.

File: Batteries/Data/String/Lemmas.lean [hunk 6]
```diff
@@ -728,6 +728,26 @@ theorem takeWhileAux_of_valid (p : Char → Bool) : ∀ l m r,
...
+@[simp]
+theorem data_eq_nil_iff (s : String) : s.data = [] ↔ s = "" :=
+  ⟨fun h => ext (id h), congrArg data⟩
+
+@[simp]
+theorem map_eq_empty_iff (s : String) (f : Char → Char) : (s.map f) = "" ↔ s = "" := by
+  simp only [map_eq, ← data_eq_nil_iff, List.map_eq_nil_iff]
+
+@[simp]
+theorem map_isEmpty_iff (s : String) (f : Char → Char) : (s.map f).isEmpty ↔ s.isEmpty := by
```
Comment (fgdorais) [inline Batteries/Data/String/Lemmas.lean]:
```suggestion
theorem map_isEmpty_eq_isEmpty (s : String) (f : Char → Char) : (s.map f).isEmpty = s.isEmpty := by
```

File: Batteries/Data/String/Lemmas.lean [hunk 7]
```diff
@@ -728,6 +728,26 @@ theorem takeWhileAux_of_valid (p : Char → Bool) : ∀ l m r,
...
+theorem data_eq_nil_iff (s : String) : s.data = [] ↔ s = "" :=
+  ⟨fun h => ext (id h), congrArg data⟩
+
+@[simp]
+theorem map_eq_empty_iff (s : String) (f : Char → Char) : (s.map f) = "" ↔ s = "" := by
+  simp only [map_eq, ← data_eq_nil_iff, List.map_eq_nil_iff]
+
+@[simp]
+theorem map_isEmpty_eq_isEmpty (s : String) (f : Char → Char) : (s.map f).isEmpty = s.isEmpty := by
+  simp only [isEmpty_iff, map_eq_empty_iff]
```
Comment (fgdorais) [inline Batteries/Data/String/Lemmas.lean]:
```suggestion
  rw [Bool.eq_iff_iff]; simp [isEmpty_iff, map_eq_empty_iff]
```

**Comment by fgdorais** [comment]
I fixed a tiny thing: = is better than iff for `Bool` expressions.

Our Mathlib check is unreliable right now. I will have to do a manual check just to be sure. I'm juggling several pots, pans and plates right now, so please ping me again if that check takes more than a couple of weeks.

Thanks for your patience!

**Comment by fgdorais** [comment]
Local Mathlib tests have passed. Since it's unlikely that this PR would break Mathlib, this is strong enough evidence that the alleged failure is a malfunction of our CI. I am proceeding with the merge.
